US08809371B2
1H-1,2,4-triazole (540 mg), cesium carbonate (1.9 g), trans-N,N′-dimethylcyclohexane-1,2-diamine (74 mg), and copper iodide (50 mg) were added to a tube containing a DMF (5 ml) solution containing 2-chloropyridin-4-amine (500 mg) and the tube was sealed, followed by stirring at 150° C. for 14.5 hours. The reaction solution was adjusted to room temperature, and water was added, followed by extraction with ethyl acetate. The resultant was washed with saturated saline and dried over anhydrous sodium sulfate. Subsequently, the solvent was distilled away under reduced pressure, the obtained residue was purified by silica gel chromatography (chloroform:methanol=1:0 to 10:1), and a brown solid of 2-(1H-1,2,4-triazol-1-yl)pyridin-4-amine (25.8 mg) was thus obtained.

reactant | 1H-1,2,4-triazole | 540 mg | N1N=CN=C1 | C2H3N3
reactant | cesium carbonate | 1.9 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | trans-N,N′-dimethylcyclohexane-1,2-diamine | 74 mg | CN[C@H]1[C@@H](CCCC1)NC | C8H18N2
reactant | 2-chloropyridin-4-amine | 500 mg | ClC1=NC=CC(=C1)N | C5H5ClN2
catalyst | copper iodide | 50 mg | [Cu](I)I
solvent | water | O | H2O
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | 2-(1H-1,2,4-triazol-1-yl)pyridin-4-amine | 25.8 mg | N1(N=CN=C1)C1=NC=CC(=C1)N | C7H7N5
